US04933355
5-{1-Carboxy-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid 1/4 hydrate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 1 g of 5-[1-(2-aminothiazol-4-yl)-1-carboxymethylene]rhodanine-3-acetic acid, 3.9 g of phenyl isocyanate and 10 ml of hexamethylphosphoric triamide. The resulting product was a ellow powder having the following physical properties.

reactant | 5-[1-(2-aminothiazol-4-yl)-1-carboxymethylene]rhodanine-3-acetic acid | 1 g | NC=1SC=C(N1)C(C(=O)O)=C1C(N(C(S1)=S)CC(=O)O)=O | C10H7N3O5S3
reactant | phenyl isocyanate | 3.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 5-{1-Carboxy-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | C(=O)(O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C17H12N4O6S3
